US09371330B2
(4-(((6S,9S)-1-(benzylcarbamoyl)-9-methyl-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidin-6-yl)methyl)phenyl dodecanoate)
To a solution of (6S,9S)—N-benzyl-6-(4-hydroxybenzyl)-9-methyl-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidine-1-carboxamide 60 mg (0.106 mmol) in dry-THF (2 ml), dodecanoyl chloride 76 μl (0.319 mmol) and then triethylamine 45 μl (0.319 mmol) were added and stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate (10 ml) and washed with water (10 ml), saturated sodium bicarbonate (10 ml), water (10 ml), and brine (10 ml). The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was purified by Büchi silica gel column chromatography (chloroform:methanol=99:1 to 98:2) to obtain title compound 61.6 mg (78%).

reactant | (6S,9S)—N-benzyl-6-(4-hydroxybenzyl)-9-methyl-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidine-1-carboxamide | 0.106 mmol, 60 mg | C(C1=CC=CC=C1)NC(=O)N1C2N(C(CC1)=O)[C@H](C(N([C@H]2C)CC2=CC=CC1=CC=CC=C21)=O)CC2=CC=C(C=C2)O | C34H34N4O4
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | dodecanoyl chloride | 0.319 mmol, 76 μl | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | triethylamine | 0.319 mmol, 45 μl | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-(((6S,9S)-1-(benzylcarbamoyl)-9-methyl-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidin-6-yl)methyl)phenyl dodecanoate | 61.6 mg, 78% | C(CCCCCCCCCCC)(=O)OC1=CC=C(C=C1)C[C@H]1C(N([C@H](C2N1C(CCN2C(NCC2=CC=CC=C2)=O)=O)C)CC2=CC=CC1=CC=CC=C21)=O | C46H56N4O5
